US08877760B2
The crude tert-butyl (1S,2R)-2-(5-cyano-6-(4-cyanophenylamino)pyrazin-2-ylamino)cyclohexylcarbamate (166 mg) was dissolved in TFA (5 mL). After being stirred at room temperature for 30 min, the mixture was concentrated in vacuo. The residue was purified by HPLC to give 5-((1R,2S)-2-aminocyclohexylamino)-3-(4-cyanophenylamino)pyrazine-2-carbonitrile (40 mg).

reactant | tert-butyl (1S,2R)-2-(5-cyano-6-(4-cyanophenylamino)pyrazin-2-ylamino)cyclohexylcarbamate | 166 mg | C(#N)C=1N=CC(=NC1NC1=CC=C(C=C1)C#N)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C23H27N7O2
solvent | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-((1R,2S)-2-aminocyclohexylamino)-3-(4-cyanophenylamino)pyrazine-2-carbonitrile | 40 mg | N[C@@H]1[C@@H](CCCC1)NC=1N=C(C(=NC1)C#N)NC1=CC=C(C=C1)C#N | C18H19N7
